US07449475B2
N-Cyclopropyl-2-hydroxy-4-(trityloxy)benzamide
Methyl 2-hydroxy-4-(trityloxy)benzoate (340 mg, 0.83 mmol) was dissolved in cyclopropylamine (3 mL) and left at room temperature for a week. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (0-20% ethyl acetate in petroleum ether) to give the subtitled compound (210 mg).

reactant | Methyl 2-hydroxy-4-(trityloxy)benzoate | 0.83 mmol, 340 mg | OC1=C(C(=O)OC)C=CC(=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22O4
reactant | cyclopropylamine | 3 mL | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2-hydroxy-4-(trityloxy)benzamide | 210 mg | C1(CC1)NC(C1=C(C=C(C=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)=O | C29H25NO3
